### PR TITLE
Data.Vec.Properties: Add take/drop proofs, zipWith-replicate

### PR DESCRIPTION
**Pull request by ryanorendorff**
Adds a few properties for `take`, `drop`, and `zipWith`:

- `take-distr-zipWith`: proof that `take` can be distributed over `zipWith`. 
- `take-distr-map`:  proof that `take` can be distributed over `map`. 
- `drop-distr-zipWith`: proof that `drop` can be distributed over `zipWith`. 
- `drop-distr-map`:  proof that `drop` can be distributed over `map`. 
- `take-drop-id`: proof of `take m v ++ drop m v ≡ v`
- `zipWith-replicate`: similar to existing zipWith-replicate₁ but where both arguments are `replicate` vectors. `zipWith _⊕_ (replicate x) (replicate y) ≡ replicate (x ⊕ y)`

### CODE REVIEW

File: src/Data/Vec/Properties.agda [hunk 1]
```diff
@@ -76,13 +77,84 @@ unfold-take : ∀ n {m} x (xs : Vec A (n + m)) → take (suc n) (x ∷ xs) ≡ x
...
+    take (suc m) (zipWith f (u ∷ us) (v ∷ vs))
+  ≡⟨⟩
+    take (suc m) (f u v ∷ (zipWith f us vs))
+  ≡⟨ unfold-take m (f u v) (zipWith f us vs) ⟩
+    f u v ∷ take m (zipWith f us vs)
+  ≡⟨ P.cong (f u v ∷_) (take-distr-zipWith f us vs) ⟩
+    f u v ∷ (zipWith f (take m us) (take m vs))
+  ≡⟨⟩
+    zipWith f (u ∷ (take m us)) (v ∷ (take m vs))
+  ≡⟨ P.cong₂ (zipWith f) (P.sym (unfold-take m u us)) (P.sym (unfold-take m v vs)) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:94]: If you use `≡˘⟨` instead of `≡⟨` you can get rid of both of the `P.sym`s.

File: src/Data/Vec/Properties.agda [hunk 2]
```diff
@@ -623,6 +695,11 @@ map-replicate :  ∀ (f : A → B) (x : A) n →
 map-replicate f x zero = refl
 map-replicate f x (suc n) = P.cong (f x ∷_) (map-replicate f x n)
 
+zipWith-replicate : ∀ {n : ℕ} (_⊕_ : A → B → C) (x : A) (y : B) →
+                  zipWith {n = n} _⊕_ (replicate x) (replicate y) ≡ replicate (x ⊕ y)
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:699]: I know the functions below violate this (it would be good to change them as well!) but the start of the second line should aligned with the `∀` rather than the `:`

File: src/Data/Vec/Properties.agda [hunk 3]
```diff
@@ -76,13 +77,84 @@ unfold-take : ∀ n {m} x (xs : Vec A (n + m)) → take (suc n) (x ∷ xs) ≡ x
...
+take-drop-id : ∀ {n} → (m : ℕ) → (v : Vec A (m + n)) → take m v ++ drop m v ≡ v
+take-drop-id zero v = refl
+take-drop-id (suc m) (v ∷ vs) = begin
+    take (suc m) (v ∷ vs) ++ drop (suc m) (v ∷ vs)
+  ≡⟨ cong₂ _++_ (unfold-take m v vs) (unfold-drop m v vs) ⟩
+    (v ∷ take m vs) ++ (drop m vs)
+  ≡⟨⟩
+    v ∷ (take m vs ++ drop m vs)
+  ≡⟨ P.cong (v ∷_) (take-drop-id m vs) ⟩
+    (v ∷ vs)
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:155]: No need for bracket here?

File: src/Data/Vec/Properties.agda [hunk 4]
```diff
@@ -76,13 +77,84 @@ unfold-take : ∀ n {m} x (xs : Vec A (n + m)) → take (suc n) (x ∷ xs) ≡ x
...
+drop-distr-zipWith {m = zero} f u v = refl
+drop-distr-zipWith {m = suc m} f (u ∷ us) (v ∷ vs) = begin
+    drop (suc m) (zipWith f (u ∷ us) (v ∷ vs))
+  ≡⟨⟩
+    drop (suc m) (f u v ∷ (zipWith f us vs))
+  ≡⟨ unfold-drop m (f u v) (zipWith f us vs) ⟩
+    drop m (zipWith f us vs)
+  ≡⟨ drop-distr-zipWith f us vs ⟩
+    zipWith f (drop m us) (drop m vs)
+  ≡⟨ P.cong₂ (zipWith f) (P.sym (unfold-drop m u us)) (P.sym (unfold-drop m v vs)) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:129]: Again you can get rid of the `P.sym`s

File: src/Data/Vec/Properties.agda [hunk 5]
```diff
@@ -76,13 +77,84 @@ unfold-take : ∀ n {m} x (xs : Vec A (n + m)) → take (suc n) (x ∷ xs) ≡ x
...
+take-distr-map : ∀ {n} → (f : A → B) → (m : ℕ) → (v : Vec A (m + n)) →
+                 take m (map f v) ≡ map f (take m v)
+take-distr-map f zero v = refl
+take-distr-map f (suc m) (v ∷ vs) =
+  begin
+    take (suc m) (map f (v ∷ vs)) ≡⟨⟩
+    take (suc m) (f v ∷ map f vs) ≡⟨ unfold-take m (f v) (map f vs) ⟩
+    f v ∷ (take m (map f vs))     ≡⟨ P.cong (f v ∷_) (take-distr-map f m vs) ⟩
+    f v ∷ (map f (take m vs))     ≡⟨⟩
+    map f (v ∷ take m vs)         ≡⟨ P.cong (map f) (P.sym (unfold-take m v vs)) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:107]: Again `P.sym` can be eliminated.

File: src/Data/Vec/Properties.agda [hunk 6]
```diff
@@ -76,13 +77,84 @@ unfold-take : ∀ n {m} x (xs : Vec A (n + m)) → take (suc n) (x ∷ xs) ≡ x
 unfold-take n x xs with splitAt n xs
 unfold-take n x .(xs ++ ys) | xs , ys , refl = refl
 
+take-distr-zipWith : ∀ {m n} → (f : A → B → C) →
+                     (u : Vec A (m + n)) → (v : Vec B (m + n)) →
+                     take m (zipWith f u v) ≡ zipWith f (take m u) (take m v)
+take-distr-zipWith {m = zero} f u v = refl
+take-distr-zipWith {m = suc m} f (u ∷ us) (v ∷ vs) = begin
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:84]: Very very minor but any chance you can align the arguments in your functions as it makes them easier to read?

**Review by MatthewDaggitt — COMMENTED** [review]
Thanks for the PR, looks great! I've added a few minor comments but nothing major.

**Comment by MatthewDaggitt** [comment]
Oh and you'll need to add an entry to the CHANGELOG file in the top level of the directory :+1:

File: src/Data/Vec/Properties.agda (hunk 2 above)
Comment (ryanorendorff) [reply src/Data/Vec/Properties.agda]: Done

File: src/Data/Vec/Properties.agda (hunk 3 above)
Comment (ryanorendorff) [reply src/Data/Vec/Properties.agda]: Done

File: src/Data/Vec/Properties.agda (hunk 4 above)
Comment (ryanorendorff) [reply src/Data/Vec/Properties.agda]: Done

File: src/Data/Vec/Properties.agda (hunk 5 above)
Comment (ryanorendorff) [reply src/Data/Vec/Properties.agda]: Done

File: src/Data/Vec/Properties.agda (hunk 1 above)
Comment (ryanorendorff) [reply src/Data/Vec/Properties.agda]: Done

File: src/Data/Vec/Properties.agda (hunk 6 above)
Comment (ryanorendorff) [reply src/Data/Vec/Properties.agda:84]: Done

**Comment by ryanorendorff** [comment]
> Oh and you'll need to add an entry to the CHANGELOG file in the top level of the directory +1

Sure thing! Added.

**Comment by ryanorendorff** [comment]
I can also add the alignment of `zipWith-replicate_1` (and 2) in this PR if you'd like.

File: CHANGELOG.md [hunk 7]
```diff
@@ -57,3 +57,20 @@ Other minor additions
   ```
 
 * Add version to library name
+
+* Add new properties to `Data.Vec.Properties`:
+  ```agda
+  take-distr-zipWith : ∀ {m n} → (f : A → B → C) →
+                       (u : Vec A (m + n)) → (v : Vec B (m + n)) →
+                       take m (zipWith f u v) ≡ zipWith f (take m u) (take m v)
```
Comment (MatthewDaggitt) [inline CHANGELOG.md:65]: We usually remove the arguments in the CHANGELOG and just give the main thrust of the type, i.e. in this case we would just give it the type `take m (zipWith f u v) ≡ zipWith f (take m u) (take m v)`

File: src/Data/Vec/Properties.agda [hunk 8]
```diff
@@ -76,13 +77,84 @@ unfold-take : ∀ n {m} x (xs : Vec A (n + m)) → take (suc n) (x ∷ xs) ≡ x
 unfold-take n x xs with splitAt n xs
 unfold-take n x .(xs ++ ys) | xs , ys , refl = refl
 
+take-distr-zipWith : ∀ {m n} → (f : A → B → C) →
+                     (u : Vec A (m + n)) → (v : Vec B (m + n)) →
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:81]: Apologies I didn't pick up on this in the first round of the review, but according to the [style guide](https://github.com/agda/agda-stdlib/blob/master/notes/style-guide.md) and in order to keep the these proofs consistent with the rest of this file, vectors should be given the name `xs` and `ys` rather than `u` and `v`.

**Comment by MatthewDaggitt** [comment]
> I can also add the alignment of zipWith-replicate_1 (and 2) in this PR if you'd like.

You can if you feel like it, but no worries if you can't be bothered. One of these days someone is going to get round to writing a linter for Agda and we're all going to be ecstatic :smile:

File: src/Data/Vec/Properties.agda (hunk 8 above)
Comment (ryanorendorff) [reply src/Data/Vec/Properties.agda]: Fixed.

File: CHANGELOG.md (hunk 7 above)
Comment (ryanorendorff) [reply CHANGELOG.md]: fixed.

**Comment by ryanorendorff** [comment]
> > I can also add the alignment of zipWith-replicate_1 (and 2) in this PR if you'd like.
> 
> You can if you feel like it, but no worries if you can't be bothered. One of these days someone is going to get round to writing a linter for Agda and we're all going to be ecstatic smile

I would love that! Auto-format on save is awesome.

**Comment by MatthewDaggitt** [comment]
Looks great. No more comments from me. I'll leave it up a few more days in case anyone else has anything to say and then I'll merge it in. Thanks again for the contribution!
